US06642224B1
2-Amino-3-nitrophenol (308 mg) was dissolved in 10 ml of pyridine, then 341 mg of 4-methoxybenzoyl chloride was added at 0° C. and the mixture was stirred at room temperature for 18 hours. The reaction solution was concentrated in vacuo, 20 ml of chloroform was added to the resulting residue and the mixture was again concentrated in vacuo. This operation was further repeated three times, and the residue from which the pyridine had been removed was purified by silica gel column chromatography using chloroform as an eluting solvent to give 428 mg of 2′-hydroxy-4-methoxy-6′-nitrobenzanilide.

reactant | 2-Amino-3-nitrophenol | 308 mg | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | 4-methoxybenzoyl chloride | 341 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2′-hydroxy-4-methoxy-6′-nitrobenzanilide | 428 mg | OC1=C(NC(C2=CC=C(C=C2)OC)=O)C(=CC=C1)[N+](=O)[O-] | C14H12N2O5
